US09029545B2
Ethyl 3-(3-bromophenyl)-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridine-5-carboxylate
To a stirred solution of ethyl 4-amino-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridine-5-carboxylate (Description 46) (2.87 g, 7.33 mmol) in THF (30 mL) and DMF (15 mL) was added sodium tert-butoxide (1.762 g, 18.34 mmol) and 3-chlorobenzenesulfonyl chloride (2.066 mL, 14.67 mmol). The reaction mixture was then stirred at RT under nitrogen for ca. 30 min and then quenched with saturated ammonium chloride solution (ca. 60 mL). The mixture was extracted with DCM (ca. 30 mL×5) and the combined organics dried and concentrated in vacuo. Purification by chromatography on silica, eluting with a gradient of 0-50% ethyl acetate in DCM afforded the title compound (1.48 g). LCMS (A) m/z: 566/568 [M+1]+, Rt 1.47 min (acidic).

reactant | ethyl 4-amino-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridine-5-carboxylate | 7.33 mmol, 2.87 g | NC1=C2C(=NC(=C1C(=O)OCC)C)SC=C2C2=CC(=CC=C2)Br | C17H15BrN2O2S
reactant | sodium tert-butoxide | 18.34 mmol, 1.762 g | CC(C)([O-])C.[Na+]
reactant | 3-chlorobenzenesulfonyl chloride | 14.67 mmol, 2.066 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-(3-bromophenyl)-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridine-5-carboxylate | 1.48 g | BrC=1C=C(C=CC1)C1=CSC2=NC(=C(C(=C21)NS(=O)(=O)C2=CC(=CC=C2)Cl)C(=O)OCC)C | C23H18BrClN2O4S2
